US09403834B2
A solution of N-(tert-butyl)-5-(1-chloro-8-phenylpyrrolo[1,2-d][1,2,4]triazin-4-yl)-2-(difluoromethyl)pyridine-3-sulfonamide (0.050 g, 0.10 mmol) in pyridin-2-ylmethanamine (0.110 g, 1.02 mmol) was heated in a sealed tube at 100° C. for 6 h. The volatile components were removed under reduced pressure and the resulting residue was purified by CombiFlash Isco (REDISEP®, SiO2, 24 g, 0-60% EtOAc/petroleum ether) to obtain N-(tert-butyl)-2-(difluoromethyl)-5-(8-phenyl-1-((pyridin-2-ylmethyl)amino)pyrrolo[1,2-d][1,2,4]triazin-4-yl)pyridine-3-sulfonamide (0.035 g, 61%) as a brown solid. LCMS Method B-4: retention time 1.12 min, [M+1]=564.5. 1H NMR (400 MHz, DMSO-d6) δ ppm: 1.18 (s, 9H), 4.63 (d, J=6.0 Hz, 2H), 6.61 (dd, J=4.4 Hz, J=6.0 Hz, 1H), 6.98 (d, J=2.8 Hz, 1H), 7.33-7.70 (m, 8H), 7.72 (d, J=2.8 Hz, 1H), 7.98-8.05 (m, 1H), 8.32 (d, J=4.8 Hz, 1H), 8.35 (s, 1H), 8.80 (br s, 1H), 9.41 (d, J=2.0 Hz, 1H).

reactant | N-(tert-butyl)-5-(1-chloro-8-phenylpyrrolo[1,2-d][1,2,4]triazin-4-yl)-2-(difluoromethyl)pyridine-3-sulfonamide | 0.10 mmol, 0.050 g | C(C)(C)(C)NS(=O)(=O)C=1C(=NC=C(C1)C1=NN=C(C=2N1C=CC2C2=CC=CC=C2)Cl)C(F)F | C22H20ClF2N5O2S
reactant | pyridin-2-ylmethanamine | 1.02 mmol, 0.110 g | N1=C(C=CC=C1)CN | C6H8N2
product | N-(tert-butyl)-2-(difluoromethyl)-5-(8-phenyl-1-((pyridin-2-ylmethyl)amino)pyrrolo[1,2-d][1,2,4]triazin-4-yl)pyridine-3-sulfonamide | 0.035 g, 61% | C(C)(C)(C)NS(=O)(=O)C=1C(=NC=C(C1)C1=NN=C(C=2N1C=CC2C2=CC=CC=C2)NCC2=NC=CC=C2)C(F)F | C28H27F2N7O2S
